US04444774
2-Methyl-7-(2-thienyl)[1,2,4]triazolo[1,5-a]pyrimidine
By the procedure described in Example 5, 3-amino-5-methyl-1,2,4-triazole was reacted with 3-dimethylamino-1-(2-thienyl)-2-propene-1-one to give 1.05 g of the product of the Example as pale yellow needles, mp 184°-185° C.

reactant | 3-amino-5-methyl-1,2,4-triazole | NC1=NNC(=N1)C | C3H6N4
reactant | 3-dimethylamino-1-(2-thienyl)-2-propene-1-one | CN(C=CC(=O)C=1SC=CC1)C | C9H11NOS
product | 2-Methyl-7-(2-thienyl)[1,2,4]triazolo[1,5-a]pyrimidine | 1.05 g | CC1=NN2C(N=CC=C2C=2SC=CC2)=N1 | C10H8N4S
